* Subcircuit sn74ls09__
.subckt sn74ls09__ net-_r1-pad1_ gndpwr net-_q2-pad1_ net-_u1-pad4_ net-_q5-pad1_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_q8-pad1_ net-_u1-pad10_ net-_q11-pad1_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ 
* d:\fossee\esim\library\subcircuitlibrary\sn74ls09__\sn74ls09__.cir
.include NPN.lib
.include D.lib
r1  net-_r1-pad1_ net-_q4-pad2_ 20k
r2  net-_r1-pad1_ net-_q1-pad2_ 10k
r3  net-_r1-pad1_ net-_q1-pad1_ 8k
r7  net-_q1-pad3_ gndpwr 5k
d1 net-_d1-pad1_ gndpwr 1N4148
* u6  gndpwr net-_u1-pad7_ zener
* u7  gndpwr net-_u1-pad4_ zener
* u2  net-_q4-pad2_ net-_u1-pad4_ zener
* u4  net-_q4-pad2_ net-_u1-pad7_ zener
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q4 net-_q1-pad2_ net-_q4-pad2_ net-_d1-pad1_ Q2N2222
q2 net-_q2-pad1_ net-_q1-pad3_ gndpwr Q2N2222
r9  net-_r1-pad1_ net-_q10-pad2_ 20k
r10  net-_r1-pad1_ net-_q10-pad1_ 10k
r11  net-_r1-pad1_ net-_q7-pad1_ 8k
r15  net-_q7-pad3_ gndpwr 5k
d3 net-_d3-pad1_ gndpwr 1N4148
* u14  gndpwr net-_u1-pad13_ zener
* u15  gndpwr net-_u1-pad10_ zener
* u10  net-_q10-pad2_ net-_u1-pad10_ zener
* u12  net-_q10-pad2_ net-_u1-pad13_ zener
q7 net-_q7-pad1_ net-_q10-pad1_ net-_q7-pad3_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad2_ net-_d3-pad1_ Q2N2222
q8 net-_q8-pad1_ net-_q7-pad3_ gndpwr Q2N2222
r6  net-_r1-pad1_ net-_q6-pad2_ 20k
r5  net-_r1-pad1_ net-_q3-pad2_ 10k
r4  net-_r1-pad1_ net-_q3-pad1_ 8k
r8  net-_q3-pad3_ gndpwr 5k
d2 net-_d2-pad1_ gndpwr 1N4148
* u8  gndpwr net-_u1-pad8_ zener
* u9  gndpwr net-_u1-pad6_ zener
* u3  net-_q6-pad2_ net-_u1-pad6_ zener
* u5  net-_q6-pad2_ net-_u1-pad8_ zener
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
q6 net-_q3-pad2_ net-_q6-pad2_ net-_d2-pad1_ Q2N2222
q5 net-_q5-pad1_ net-_q3-pad3_ gndpwr Q2N2222
r14  net-_r1-pad1_ net-_q12-pad2_ 20k
r13  net-_r1-pad1_ net-_q12-pad1_ 10k
r12  net-_r1-pad1_ net-_q9-pad1_ 8k
r16  net-_q11-pad2_ gndpwr 5k
d4 net-_d4-pad1_ gndpwr 1N4148
* u16  gndpwr net-_u1-pad14_ zener
* u17  gndpwr net-_u1-pad12_ zener
* u11  net-_q12-pad2_ net-_u1-pad12_ zener
* u13  net-_q12-pad2_ net-_u1-pad14_ zener
q9 net-_q9-pad1_ net-_q12-pad1_ net-_q11-pad2_ Q2N2222
q12 net-_q12-pad1_ net-_q12-pad2_ net-_d4-pad1_ Q2N2222
q11 net-_q11-pad1_ net-_q11-pad2_ gndpwr Q2N2222
a1 gndpwr net-_u1-pad7_ u6
a2 gndpwr net-_u1-pad4_ u7
a3 net-_q4-pad2_ net-_u1-pad4_ u2
a4 net-_q4-pad2_ net-_u1-pad7_ u4
a5 gndpwr net-_u1-pad13_ u14
a6 gndpwr net-_u1-pad10_ u15
a7 net-_q10-pad2_ net-_u1-pad10_ u10
a8 net-_q10-pad2_ net-_u1-pad13_ u12
a9 gndpwr net-_u1-pad8_ u8
a10 gndpwr net-_u1-pad6_ u9
a11 net-_q6-pad2_ net-_u1-pad6_ u3
a12 net-_q6-pad2_ net-_u1-pad8_ u5
a13 gndpwr net-_u1-pad14_ u16
a14 gndpwr net-_u1-pad12_ u17
a15 net-_q12-pad2_ net-_u1-pad12_ u11
a16 net-_q12-pad2_ net-_u1-pad14_ u13
* Schematic Name:                             zener, NgSpice Name: zener
.model u6 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u7 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u2 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u4 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u14 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u15 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u10 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u12 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u8 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u9 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u3 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u5 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u16 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u17 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u11 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Schematic Name:                             zener, NgSpice Name: zener
.model u13 zener(v_breakdown=5.6 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE )
* Control Statements

.ends sn74ls09__